US04871528
Group A (GSH+doxorubicin):
Six animals were treated i.v. in the morning (10 am.) with glutathione g/kg) dissolved in normal saline (total injected volume 1 ml/kg). After 30 minutes, the same animals were treated i.v. with doxorubicin (3 mg/kg) dissolved in normal saline (total injected volume 1 ml/kg).

reactant | glutathione | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | doxorubicin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
solvent | normal saline | O.[Na+].[Cl-]
product | GSH doxorubicin | C(CC(=O)N[C@@H](CS)C(=O)NCC(=O)O)[C@@H](C(=O)O)N.C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | InChI=1S/C27H29NO11.C10H17N3O6S/c1-10-22(31)13(28)6-17(38-10)39-15-8-27(36,16(30)9-29)7-12-19(15)26(35)21-20(24(12)33)23(32)11-4-3-5-14(37-2)18(11)25(21)34;11-5(10(18)19)1-2-7(14)13-6(4-20)9(17)12-3-8(15)16/h3-5,10,13,15,17,22,29,31,33,35-36H,6-9,28H2,1-2H3;5-6,20H,1-4,11H2,(H,12,17)(H,13,14)(H,15,16)(H,18,19)/t10-,13-,15-,17-,22+,27-;5-,6-/m00/s1
